US06124323
4-(2-Fluoro-4-methylbenzyl)-1-(2-(2,4-difluorophenoxy)ethyl)piperidine hydrochloride
The title compound was prepared from 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride (300 mg, 1.23 mmol), 2-(2,4-difluorophenoxy)ethyl bromide (321 mg, 1.35 mmol) and K2CO3 (357 mg, 2.58 mmol) as colorless flakes (326 mg): mp 180-182° C.; 1H NMR (CDCl3) 1.65-1.90 (m, 3H), 1.95-2.13 (m, 2H), 2.30 (s, 3H), 2.61 (d, J=6.9 Hz, 2H), 2.65-2.87 (m, 2H), 3.30-3.55 (m, 2H), 3.69 (d, J=12 Hz, 2H), 4.59 (t, J=4.2 Hz, 2H), 6.75-7.02 (m, 6H), 12.61 (bs, 1H); Anal Calcd. for C21H,25ClF3NO: C, 63.08; H, 6.30; N, 3.50. Found: C, 62.94; H, 6.34; N, 3.36.

reactant | 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | 1.23 mmol, 300 mg | Cl.FC1=C(CC2CCNCC2)C=CC(=C1)C
reactant | 2-(2,4-difluorophenoxy)ethyl bromide | 1.35 mmol, 321 mg | FC1=C(OCCBr)C=CC(=C1)F | C8H7BrF2O
reactant | K2CO3 | 2.58 mmol, 357 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-(2-Fluoro-4-methylbenzyl)-1-(2-(2,4-difluorophenoxy)ethyl)piperidine hydrochloride | Cl.FC1=C(CC2CCN(CC2)CCOC2=C(C=C(C=C2)F)F)C=CC(=C1)C | InChI=1S/C21H24F3NO.ClH/c1-15-2-3-17(19(23)12-15)13-16-6-8-25(9-7-16)10-11-26-21-5-4-18(22)14-20(21)24;/h2-5,12,14,16H,6-11,13H2,1H3;1H
